US05585392
2-{N-[4-(1,1-Dioxido-2H-naphth[1,8-cd]isothiazol-2-yl)butyl]aminomethyl}-8-methoxytetralin 2-{N-Di[4-(1,1-dioxido-2H-naphth[1,8-cd]isothiazol-2-yl)butyl]aminomethyl}-8-methoxytetralin
1.6 g of 2-amino-8-methoxytetralin (8.4 mmol), 1.16 ml of triethylamine (8.4 mmol) and 1.59 g of 2-(4-bromobutyl)-2H-naphth[1,8-cd]isothiazole 1,1-dioxide are stirred for 48 h at 40° C. in 32 ml of dimethylformamide. The reaction solution is then stirred into a mixture of 320 ml of 5% strength sodium chloride solution, 100 ml of toluene, 8.4 ml of 1N hydrochloric acid and kieselguhr. The kieselguhr containing the hydrochloride of the final product attached thereto is filtered off with suction-- and introduced into a mixture of 300 ml of water and 100 ml of toluene. The final product is transferred to the organic phase by dropwise addition of 9 ml of 1N sodium hydroxide solution.

reactant | 2-amino-8-methoxytetralin | 8.4 mmol, 1.6 g | NC1CC2=C(C=CC=C2CC1)OC | C11H15NO
reactant | triethylamine | 8.4 mmol, 1.16 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(4-bromobutyl)-2H-naphth[1,8-cd]isothiazole 1,1-dioxide | 1.59 g | BrCCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C14H14BrNO2S
reactant | sodium chloride | [Cl-].[Na+]
reactant | hydrochloric acid | 1N, 8.4 ml | Cl | ClH
solvent | dimethylformamide | 32 ml | CN(C=O)C | C3H7NO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-{N-[4-(1,1-Dioxido-2H-naphth[1,8-cd]isothiazol-2-yl)butyl]aminomethyl}-8-methoxytetralin | O=S1(N(C2=C3C1=CC=CC3=CC=C2)CCCCNCC2CC3=C(C=CC=C3CC2)OC)=O | C26H30N2O3S
